US08957070B2
A mixture of 7-[ethyl(2-thienylsulfonyl)amino]-4,5-dimethyl-1H-indole-2-carboxamide (0.20 g), Lawesson's reagent (0.22 g) and tetrahydrofuran (10 mL) was stirred at 40° C. for 5 hr. The reaction solution was concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography(ethyl acetate:hexane=1:9-ethyl acetate) to give 7-[ethyl(2-thienylsulfonyl)amino]-4,5-dimethyl-1H-indole-2-carbothioamide (0.16 g, yield 77%) as pale-yellow crystals. A mixed solution of the obtained crystals (0.16 g), bromomalonaldehyde (0.13 g) and N,N-dimethylacetamide (8 mL) was stirred at 80° C. for 3 hr. The reaction solution was diluted with ethyl acetate, washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:9-1:3) to give the title compound (85 mg, yield 47%) as pale-yellow crystals.

reactant | 7-[ethyl(2-thienylsulfonyl)amino]-4,5-dimethyl-1H-indole-2-carboxamide | 0.20 g | C(C)N(C=1C=C(C(=C2C=C(NC12)C(=O)N)C)C)S(=O)(=O)C=1SC=CC1 | C17H19N3O3S2
reactant | Lawesson's reagent | 0.22 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 7-[ethyl(2-thienylsulfonyl)amino]-4,5-dimethyl-1H-indole-2-carbothioamide | 0.16 g, yield 77% | C(C)N(C=1C=C(C(=C2C=C(NC12)C(N)=S)C)C)S(=O)(=O)C=1SC=CC1 | C17H19N3O2S3
